US06114470
N-ethyl-N-(2-hydroxyethyl)-p-toluidine (EHPT) was prepared substantially as described above in Example 1, except that acetaldehyde was added to ethylate N-(2-hydroxyethyl)-p-toluidine.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | N-(2-hydroxyethyl)-p-toluidine | OCCNC1=CC=C(C=C1)C | C9H13NO
product | N-ethyl-N-(2-hydroxyethyl)-p-toluidine | C(C)N(C1=CC=C(C=C1)C)CCO | C11H17NO
